US04656308
To a mixture of 500 parts ethanolamine in methylene chloride (900 ml), cooled to -70° C., was added dropwise 2405 parts diethyloxalate. After stirring at room temperature for 16 hours, the mixture was filtered, concentrated and purified by chromatography to yield pure ethyl 2-hydroxyethyloxamate. A mixture of the oxamate (77 parts), sodium carbonate (50.2 parts) and an inhibitor in chloroform were cooled to 0° C. and acryloylchloride (43.3 parts) was added dropwise. After stirring at 0° C. for 2 hours and room temperature for 3 hours the mixture was filtered to yield 1011 parts crude ethyl N-2-ethyloxamatoacrylate.

reactant | ethanolamine | C(O)CN | C2H7NO
reactant | diethyloxalate | C(C)OC(C(=O)OCC)=O | C6H10O4
solvent | methylene chloride | 900 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-hydroxyethyloxamate | OCCNC(C(=O)OCC)=O | C6H11NO4
